US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-{2-[1-(methylsulfonyl)piperidin-4-yl]-1,3-thiazol-4-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(2-piperidin-4-yl-1,3-thiazol-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride (100 mg, 0.17 mmol) in DMF (1.5 mL) was added methanesulfonyl chloride (15 μL, 0.19 mmol) and N,N-diisopropylethylamine (120 μL, 0.69 mmol). The reaction was stirred at rt for 17 h. The crude mixture was purified by preparative HPLC using a gradient elution from 15% to 45% acetonitrile to provide 28 mg (28%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 8.56 (s, 1 H), 8.38 (s, 1 H), 8.10 (s, 1 H), 7.83 (d, 1 H), 7.67 (s, 1 H), 7.27-7.40 (m, 5H), 7.17-7.24 (m, 2 H), 5.66 (s, 2 H), 3.59-3.69 (m, 2 H), 3.16-3.28 (m, 1 H), 2.85-2.95 (m, 5H), 2.20 (d, 2 H), 1.78 (q, 2 H); ES-MS m/z 585.21 [M+H]+, HPLC RT (min) 2.97.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(2-piperidin-4-yl-1,3-thiazol-4-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine hydrochloride | 0.17 mmol, 100 mg | Cl.C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C=2N=C(SC2)C2CCNCC2
reactant | methanesulfonyl chloride | 0.19 mmol, 15 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N,N-diisopropylethylamine | 0.69 mmol, 120 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 5-(2-benzyl-2H-indazol-6-yl)-7-{2-[1-(methylsulfonyl)piperidin-4-yl]-1,3-thiazol-4-yl}pyrrolo[2,1-f][1,2,4]triazin-4-amine | 28 mg, 28% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C=2N=C(SC2)C2CCN(CC2)S(=O)(=O)C | C29H28N8O2S2
